US20010029035A1
The ODNs exclusively containing phosphorothioate compounds 5′-GTT CTC CCA GCG TGT GCC AT-3′ (antisense), 5′-ATG GCA CAC GCT GGG AGA AC-3′ (sense) and 5′-TAC CGT GTG CGA CCC TCT TG-3′ (non-sense) were synthesized by means of the β-cyanoethyl-phosphoroamidite chemistry in the 1 μm range. The acetylation was carried out by means of 0.1 M acetic anhydride/tetrahydrofuran (THF) and 0.1 M imidazole/THF. The sulfurization was made by means of the EDITH reagents (3-ethoxy-1,2,4-dithiazoline-5-one). The commercially available thiol linker phosphoroamidite having a spacer of six carbon atoms (1-O-dimethoxytrityl-hexyl-disulfide-1′-[(2-cyanoethyl)-(N,N-diisopropyl)]phosphoroamidite (Glen Research) was coupled to the 5′ end. An acetonitrile wash step followed the last coupling. The resin was dried in an argon stream and treated at 55° C. with concentrated ammonia for 12 hours, which contained 0.1 M DTT, the removal of the protecting groups of the thiol protection and the separation from the resin also taking place simultaneously (Gottschling et al., Bioconjugate Chem. 9 (1998), 831-837). The resin was removed by filtration and washed with concentrated ammonia. After rotation evaporation of the resulting solution a clear residue was left which was dissolved in sterile water. In order to remove excess DTT, the solution was passed over an “NAP-10” gel filtration column. The ODN-containing fractions were immediately used for conjugation with the peptide.

reactant | phosphorothioate | P([O-])([O-])([O-])=S
reactant | AT-3 | CCN(CCI)C1C2=CC=CC=C2C3=CC=CC=C13.Cl
reactant | β-cyanoethyl-phosphoroamidite | C(#N)CCOP([O-])N
reactant | acetic anhydride tetrahydrofuran | 0.1 M | C(C)(=O)OC(C)=O.O1CCCC1
reactant | imidazole THF | 0.1 M | N1C=NC=C1.O1CCCC1
reactant | 3-ethoxy-1,2,4-dithiazoline-5-one | C(C)OC=1SSC(N1)=O | C4H5NO2S2
product | TG-3 | C1CCCN(CC1)CCC(=O)C2=CC=CC=C2.Cl | InChI=1S/C15H21NO.ClH/c17-15(14-8-4-3-5-9-14)10-13-16-11-6-1-2-7-12-16;/h3-5,8-9H,1-2,6-7,10-13H2;1H
